US06858370B2
Potassium perfluorobutanesulfonate (10 g) was dissolved in a mixed solvent comprising 500 ml of water and 100 ml of methanol, and a solution obtained by dissolving 7.7 g of 2-oxo-3,3-dimethylbutyltetrahydrothiophenium bromide in 50 ml of methanol was added to the above solution. The aqueous solution was extracted twice with 100 ml of chloroform, the organic phase was washed with water and concentrated, thereby an oily product was obtained. The above-obtained product was concentrated again with ethyl acetate, thereby a solid product was obtained. The solid product was filtered and re-slurried with diisopropyl ether, to thereby obtain 9 g of 2-oxo-3,3-dimethylbutyltetrahydrothiophenium perfluorobutanesulfonate.

reactant | Potassium perfluorobutanesulfonate | 10 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[K+]
reactant | 2-oxo-3,3-dimethylbutyltetrahydrothiophenium bromide | 7.7 g | [Br-].O=C(C[S+]1CCCC1)C(C)(C)C
solvent | water | 500 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-oxo-3,3-dimethylbutyltetrahydrothiophenium perfluorobutanesulfonate | 9 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.O=C(C[S+]1CCCC1)C(C)(C)C | InChI=1S/C10H19OS.C4HF9O3S/c1-10(2,3)9(11)8-12-6-4-5-7-12;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h4-8H2,1-3H3;(H,14,15,16)/q+1;/p-1
